US08895596B2
Step D 3-{[6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylic acid.
To a solution of ethyl 3-{[6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate (153 mg, 0.258 mmol) in formic acid (4 mL) was added saturated aqueous solution of potassium bisulfate (0.8 ml, 0.258 mmol). The reaction mixture was heated at 80° C. overnight. Then the volatiles were removed in vacuo, and the residue acidified with 1 N aqueous HCl, and extracted with EtOAc. The organic phase was separated, washed with water, and concentrated in vacuo. Purification of the resulting residue by reverse phase HPLC (20-100% MeCN: H2O) afforded the title compound as a white solid. LC-MS: calculated for C24H19ClN2O4 434.1, observed m/e: 434.99 (M+H)+ (Rt 1.82/4 min). 1H NMR (500 MHz, CD3OD): δ 7.70-6.90 (m, 10H), 5.25-5.20 (m, 1H), 2.90 (m, 3H) 2.50 (m, 2H).

reactant | ethyl 3-{[6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate | 0.258 mmol, 153 mg | ClC=1C(=CC2=C(N(C(=N2)OC2CC(C2)C(=O)OCC)COCC[Si](C)(C)C)C1)C1=CC=C(C=C1)C1=C(C=CC=C1)O | C32H37ClN2O5Si
reactant | potassium bisulfate | 0.258 mmol, 0.8 ml | S([O-])(O)(=O)=O.[K+]
solvent | formic acid | 4 mL | C(=O)O | CH2O2
product | 3-{[6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylic acid | ClC=1C(=CC2=C(NC(=N2)OC2CC(C2)C(=O)O)C1)C1=CC=C(C=C1)C1=C(C=CC=C1)O | C24H19ClN2O4
